US09029544B2
(S)—((S)-5-(tert-butyldimethylsilyloxy)-4-(4,4-difluorocyclohex-1-enyl)-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(5-(trifluoromethyl)pyridin-2-yl)methanol
Obtained by starting from (S)-5-(tert-butyldimethylsilyloxy)-4-(4,4-difluorocyclohex-1-enyl)-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinoline-3-carbaldehyde and 2-bromo-5-(trifluoromethyl)pyridine.

reactant | (S)-5-(tert-butyldimethylsilyloxy)-4-(4,4-difluorocyclohex-1-enyl)-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinoline-3-carbaldehyde | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C(C)C)C=O)C1=CCC(CC1)(F)F | C27H41F2NO2Si
reactant | 2-bromo-5-(trifluoromethyl)pyridine | BrC1=NC=C(C=C1)C(F)(F)F | C6H3BrF3N
product | (S)—((S)-5-(tert-butyldimethylsilyloxy)-4-(4,4-difluorocyclohex-1-enyl)-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(5-(trifluoromethyl)pyridin-2-yl)methanol | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C(C)C)[C@H](O)C1=NC=C(C=C1)C(F)(F)F)C1=CCC(CC1)(F)F | C33H45F5N2O2Si
